US04179445
The remainder (247 ml) of the reaction mixture which had been analyzed by uv and HPLC, was passed through a column of strongly acidic cation exchange resin (600 ml) in the hydrogen ion form. The column was washed until the total effluent was 2000 ml. The absorbance of the column effluent at pH 10 and 264 nm showed a 93.4% recovery (53.1 mmoles) of the theoretical amount (57 mmoles) of L-ascorbate 2-phosphate expected for stoichiometric 2-phosphorylation of IAA. The column effluent (which was at pH 1.0), was allowed to stand 2 hr. at 25° C., and solid magnesium hydroxide (about 11 g) was added to adjust the pH to about 9.0. The mixture was then allowed to stand overnight at 5° C., and was filtered. Recovery of L-ascorbate 2-phosphate in the filtrate was 91.7%. The filtrate was next concentrated under reduced pressure to a volume of 50 ml, and the concentrate added to absolute ethanol (300 ml). The precipitated magnesium L-ascorbate 2-phosphate was collected by centrifugation and was washed with 95% ethanol (2×100 ml). High pressure liquid chromatographic examination of the ethanol washings showed that magnesium bis-(L-ascorbyl) 2,2'-phosphate was concentrated in the ethanolic washings, and that the solid residue contained only traces of the bis compound. The insoluble material was dried under vacuum to give 19.5 g of practically pure magnesium L-ascorbate 2-phosphate as a freeflowing powder (approximately 86% yield).

reactant | L-ascorbate 2-phosphate | 57 mmoles | P(=O)(O)(O)OC=1C(=O)O[C@@H](C1[O-])[C@@H](O)CO
reactant | magnesium hydroxide | about 11 g | [OH-].[Mg+2].[OH-]
product | magnesium L-ascorbate 2-phosphate | P(=O)([O-])([O-])OC=1C(=O)O[C@@H](C1[O-])[C@@H](O)CO.[Mg+2].O=C1C(OP(=O)([O-])[O-])=C([O-])[C@H](O1)[C@@H](O)CO.[Mg+2].[Mg+2] | InChI=1S/2C6H9O9P.3Mg/c2*7-1-2(8)4-3(9)5(6(10)14-4)15-16(11,12)13;;;/h2*2,4,7-9H,1H2,(H2,11,12,13);;;/q;;3*+2/p-6/t2*2-,4+;;;/m00.../s1
